US05242890
3-ethylcarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole: Compound No. 112
0.95 g of 3-ethoxycarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole was added to 30 ml of tetrahydrofuran. The mixture was cooled to -78° C., and then 3 ml of ethylmagnesium bromide (2M solution) was added dropwise. After the mixture was stirred at -78° C. for 1 hour, it was poured into cold aqueous 5% HCl solution. After the resulted product was extracted with ether and concentrated, it was purified by column chromatography(hexane:ethylacetate=4:1) to obtain 0.75 g of the desired product(yield: 83.0%).

reactant | 3-ethoxycarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 0.95 g | C(C)OC(=O)C1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N2O4
reactant | ethylmagnesium bromide | 2M, 3 ml | C(C)[Mg]Br
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-ethylcarbonyl-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 0.75 g, yield: 83.0% | C(C)C(=O)C1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N2O3
